* source LAB2
R_R1         N14619 N14581  15.4k  
V_V1         N14581 0 5Vdc
V_V2         N14627 0 5Vdc
M_M2         N14627 N14619 0 0 nnMOS           
M_M1         N14619 N14619 0 0 nnMOS           
M_M3         N16275 N16364 0 0 nnMOS           
M_M4         N16295 N16345 0 0 nnMOS           
R_RL1         N16275 N16279  10k TC=0,0 
R_RL2         N16295 N16291  10k TC=0,0 
R_RP2         N16291 N16279  2k TC=0,0 
V_VCM         N16345 0 5Vdc
V_V4         0 N16279 5Vdc
V_VCM3         N16364 0 5Vdc
R_RL3         N21350 N21262  10k TC=0,0 
M_M6         N21356 N21422 N21474 0 nnMOS           
R_RP3         N21304 N21262  1k TC=0,0 
M_M5         N21350 N21422 N21474 0 nnMOS           
R_RL4         N21356 N21304  10k TC=0,0 
V_VDD0         N22098 0 5Vdc
M_M7         N22152 N22152 0 0 nnMOS           
M_M8         N21474 N22152 0 0 nnMOS           
R_R2         N22152 N22098  15.4k  
V_VDD         N21262 0 5Vdc
V_VCM1         N21422 0 5Vdc
M_M9         N28801 N28877 N28915 0 nnMOS           
V_VDD10         N28703 0 4Vdc
M_M12         N28915 N29015 0 0 nnMOS           
R_RL50         N28801 N28703  10k TC=0,0 
M_M10         N28807 N28897 N28915 0 nnMOS           
R_R30         N29015 N28953  15.4k  
M_M11         N29015 N29015 0 0 nnMOS           
V_VCM4         N29689 0 2.5Vdc
R_RP4         N28751 N28703  1k TC=0,0 
V_VDD1         N28953 0 4Vdc
R_RL6         N28807 N28751  10k TC=0,0 
V_V6         N28877 N28897  
+SIN 0 0.1 100 0 0 0
R_R40         N28877 N29689  5k TC=0,0 
R_R50         N28897 N29689  5k TC=0,0 
R_R53         N32435 N32381  15.4k  
R_R52         N32033 N31929  5k TC=0,0 
R_RL51         N32263 N33519  10k TC=0,0 
M_M15         N32435 N32435 0 0 nnMOS           
R_RL52         N32273 N32213  10k TC=0,0 
V_VDD12         N32381 0 5Vdc
V_VDD11         N32133 0 5Vdc
M_M13         N32263 N32029 N32373 0 nnMOS           
M_M16         N32373 N32435 0 0 nnMOS           
V_V7         N31929 N32974  
+SIN 0 100m 100 0 0 0
R_R51         N32029 N31929  5k TC=0,0 
R_RP5         N32213 N32133  1k TC=0,0 
M_M14         N32273 N32033 N32373 0 nnMOS           
V_VCM5         N32974 0 2.5Vdc
R_RP7         N33519 N32133  1k TC=0,0 
