* source LAB1
M_M1         N00198 N00198 0 0 nnMOS           
M_M2         N00206 N00198 0 0 nnMOS           
R_R1         N00198 N00186  10k  
V_V1         N00186 0 4.2Vdc
V_V2         N00206 0 5Vdc
V_V3         N01325 0 4Vdc
M_M3         N01357 N01357 0 0 nnMOS           
M_M4         N01651 N01357 0 0 nnMOS           
V_V4         N01373 0 5Vdc
R_R2         N01357 N01325  10k  
M_M5         N01373 N01912 N01651 0 nnMOS           
X_R3         0 N01912 N01325 POT PARAMS: SET=0.25 VALUE=1K
