* source LAB2_PART2
R_R40         N37829 N37729  5k TC=0,0 
V_VDD1         N38181 0 4Vdc
M_M11         N38237 N38237 0 0 nnMOS           
R_R50         N37833 N37729  5k TC=0,0 
M_M9         N38063 N37829 N38173 0 nnMOS           
M_M12         N38173 N38237 0 0 nnMOS           
V_V6         N37829 N37833  
+SIN 0 0.1 100 0 0 0
M_M10         N38073 N37833 N38173 0 nnMOS           
V_VDD10         N37933 0 4Vdc
R_R30         N38237 N38181  15.4k  
V_VCM4         N37729 0 2.5Vdc
M_M13         N37933 N38063 N38063 N37933 ppMOS           
M_M14         N37933 N38063 N38073 N37933 ppMOS           
